US05015651
3-Methoxymethyl-5-propyl-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,2,4-triazole
To a solution of 3-methoxymethyl-5-propyl-4-[(2'-cyanobiphenyl-4-yl)methyl]-1,2,4-triazole (1.5 g, 4.33 mmol) in DMF (35 ml) was added sodium azide (NaN3, 0.84 g, 13 mmol) and ammonium chloride (NH4Cl, 0.69 g, 13 mmol). The mixture was stirred at 100° C. for four days whereupon an additional 0.3 g NaN3 and 0.23 g NH4Cl were added. Stirring was continued 2 days further at 100° C. The solvent was removed (rotary evaporation) and the residue was partitioned between ethyl acetate and water (100 ml ea). The organic phase was dried (MgSO4), filtered and concentrated to a viscous light brown oil (1.5 g) which was purified by flash chromatography on silica gel to give 350 mg (21%) of an off-white solid; m.p. 201°-205° C. (dec.).

reactant | 3-methoxymethyl-5-propyl-4-[(2'-cyanobiphenyl-4-yl)methyl]-1,2,4-triazole | 4.33 mmol, 1.5 g | COCC1=NN=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CCC | C21H22N4O
reactant | sodium azide | 13 mmol, 0.84 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 13 mmol, 0.69 g | [Cl-].[NH4+]
reactant | NaN3 | 0.3 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 0.23 g | [Cl-].[NH4+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 3-Methoxymethyl-5-propyl-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,2,4-triazole | 350 mg, 21% | COCC1=NN=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C21H23N7O
